** HSPICE file for buffer_ld
**   - generated by ext2sp v4.1

** Include netlist file for buffer_ld
.include buffer_ld.spice

** Default 3.3V Power Supply
Vsupply Vdd GND 3.3V

** Specify input signals here
** e.g. for inputs A and B
   VA NA GND PWL(0NS 0V  2NS 0V  2.25NS 3.3V  6NS 3.3V  6.25NS 0V)
   VB NB GND PWL(0NS 0V  4NS 0V  4.25NS 3.3V  8NS 3.3V  8.25NS 0V)

** Default Simulation - Type, Resolution & Duration
.TRAN 10PS 10NS

** Specify ouput signals to measure here
** e.g. rise and fall delays for output Y
  
   .measure tran x_prop_delay_rise
      +TRIG v(a) VAL='3.3*0.5' TD=0NS RISE=1 
      +TARG v(y) VAL='3.3*0.5' TD=0NS RISE=1

   .measure tran x_prop_delay_fall
      +TRIG v(a) VAL='3.3*0.5' TD=0NS FALL=1 
      +TARG v(y) VAL='3.3*0.5' TD=0NS FALL=1

   .measure A_Propagation PARAM = '(x_prop_delay_rise + x_prop_delay_fall)/2'


** Save results for display
.OPTIONS POST
** Avoid DC convergence in at unreasonable voltage
.OPTIONS GMINDC=1n

.END
